US08486953B2
Preparation of 6-(3-methoxypropoxy)-3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine
A mixture of 6-chloro-3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine (0.259 g, 1.00 mmol), K2CO3 (0.276 g, 2.00 mmol) and 3-methoxy-1-propanol (0.191 mL, 2.00 mmol) in DMF (3.0 mL) was heated at 60° C. for 6 hours and then at 100° C. for 24 hours. The reaction mixture was diluted with EtOAc, washed with water and brine (×2). The organic phase was dried (MgSO4), filtered and the solvent removed in vacuo. The residue was purified by flash column chromatography (100% iso-hexane 75% iso-hexane/EtOAc) to afford an oil (0.17 g, 54%).

reactant | 6-chloro-3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine | 1.00 mmol, 0.259 g | ClC1=CC=C(C(=N1)OC1CCOCC1)[N+](=O)[O-] | C10H11ClN2O4
reactant | K2CO3 | 2.00 mmol, 0.276 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-methoxy-1-propanol | 2.00 mmol, 0.191 mL | COCCCO | C4H10O2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(3-methoxypropoxy)-3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine | 0.17 g, 54% | COCCCOC1=CC=C(C(=N1)OC1CCOCC1)[N+](=O)[O-] | C14H20N2O6
